US05591775
EXAMPLE 78: N-[2-(3,7-DIHYDROXYNAPHTH-1-YL)ETHYL]ACETAMIDE
Dissolve 0.2 g (0.771 mmol) of N-[2-(7-methoxy-3-hydroxynaphth-1-yl)ethyl]acetamide, according to Example 77, in 5 cm3 of anhydrous dichloromethane. Cool in a bath of ice and salt. Add dropwise 0.8 cm3 of 1M boron tribromide. Stir in ice at room temperature for 4 hours. Add a further 0.8 cm3 of 1M boron tribromide in CH2CL2. Allow to stir overnight at room temperature. Bring to pH 8 with 1N NaOH. Extract with CH2Cl2. Dry with MgSO4. Evaporate off the solvent. Recover the product. Extract with methyl ethyl ketone. Dry over MgSO4. Evaporate off the solvent. Purify the product on 30 g of silica. Elute with CH2Cl2 /MeOH: 95/5. The product of Example 78 is obtained.

reactant | N-[2-(7-methoxy-3-hydroxynaphth-1-yl)ethyl]acetamide | 0.771 mmol, 0.2 g | COC1=CC=C2C=C(C=C(C2=C1)CCNC(C)=O)O | C15H17NO3
reactant | boron tribromide | 1M, 0.8 cm3 | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 1M, 0.8 cm3 | B(Br)(Br)Br | BBr3
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
product | N-[2-(3,7-DIHYDROXYNAPHTH-1-YL)ETHYL]ACETAMIDE | OC=1C=C(C2=CC(=CC=C2C1)O)CCNC(C)=O | C14H15NO3
